US05716971
DMF (2 ml) was added to a mixture of 2-(5-bromo-α-cyano-2-methoxymethoxybenzyl)-3-(1,3-dioxolan-2-yl)pyridine (120 mg) and potassium carbonate (102 mg), which was stirred for 80 hours at room temperature. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The extract solution was washed with water, dried (anhydrous sodium sulfate) and concentrated to give 2-(5-bromo-2-methoxy methoxy benzoyl)-3-(1,3-dioxolan-2-yl)pyridine (90 mg) (Compound E-1). The physical properties and spectrum data are shown in Table 16 and Table 18.

reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2-(5-bromo-α-cyano-2-methoxymethoxybenzyl)-3-(1,3-dioxolan-2-yl)pyridine | 120 mg | BrC=1C=CC(=C(C(C#N)C2=NC=CC=C2C2OCCO2)C1)OCOC | C18H17BrN2O4
reactant | potassium carbonate | 102 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-(5-bromo-2-methoxy methoxy benzoyl)-3-(1,3-dioxolan-2-yl)pyridine | 90 mg | BrC=1C=CC(=C(C(=O)C2=NC=CC=C2C2OCCO2)C1)OCOC | C17H16BrNO5
